US05786371
44 g benzylpiperazine, 200 ml absolute THF, 39.4 g 1-chloro-3-bromopropane and 76 g triethylamine are heated for 8 hours under reflux. After separating the precipitate the tetrahydrofuran is concentrated by evaporation, the residue is dissolved in 500 ml ether, treated twice with carbon and subsequently the solvent is removed by distillation. After distillation in a high vacuum 1-benzyl-4-(3-chloropropyl)piperazine with a boiling point of 145°-148° C./0.3 mm Hg is obtained. 22.75 g of this distillate was dissolved in 200 ml ethanol and admixed with 15 g potassium phthalimide and it was heated for 56 hours under reflux. Subsequently the solvent was evaporated, the residue was dissolved in 150 ml dichloromethane and the organic phase was washed three times with 50 ml two molar sodium hydroxide solution and three times with 50 ml water. Afterwards the organic phase was dried and evaporated. 30 g 2-[3-(4-benzylpiperazin-1-yl)propyl]isoindol-1,3-dione is obtained as a viscous oil. TLC (mobile solvent: heptane/methyl ethyl ketone/ammonia atmosphere 2:1), Rf=0.32.

reactant | benzylpiperazine | 44 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | 1-chloro-3-bromopropane | 39.4 g | ClCCCBr | C3H6BrCl
reactant | potassium phthalimide | 15 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | triethylamine | 76 g | C(C)N(CC)CC | C6H15N
product | 2-[3-(4-benzylpiperazin-1-yl)propyl]isoindol-1,3-dione | 30 g | C(C1=CC=CC=C1)N1CCN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C22H25N3O2
